US07291616B2
6-(5-Chloro-2-methyl-phenyl)-N-(4-vinyl-phenyl)-[1,3,5]triazine-2,4-diamine
A mixture of 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine (500 mg, 1.8 mmol), 4-vinylphenylamine (228 mg, 1.9 mmol), tetrahydrofuran (20 ml), and N,N-diisopropylethylamine (0.63 ml, 3.6 mmol) was stirred for 2 hours. The mixture was transferred to a pressure bottle and chilled to −78° C. A slow stream of ammonia gas was passed into the mixture for 2 minutes and the bottle was sealed. After stirring at room temperature for 60 hours, the mixture was concentrated under reduced pressure. The residue was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide the title compound (260 mg, 41% yield). 1H NMR (acetone-d6) 8.78 (br s, 1H), 7.92 (d, J=2.4 Hz, 1H), 7.88 (d, J=8.3 Hz, 2H), 7.44 (d, J=8.6 Hz, 2H), 7.39 (dd, J=2.4 Hz, J=8.2 Hz, 1H), 7.30 (d, J=8.2 Hz, 1H), 6.74 (dd, J=11.0 Hz, J=17.6 Hz, 1H), 6.64 (br s, 1H), 5.73 (dd, J=1.0 Hz, J=17.6 Hz, 1H), 5.15 (dd, J=1.0 Hz, J=11.0 Hz, 1H), 2.61 (s, 3H).

reactant | 2,4-dichloro-6-(5-chloro-2-methyl-phenyl)-[1,3,5]triazine | 1.8 mmol, 500 mg | ClC1=NC(=NC(=N1)Cl)C1=C(C=CC(=C1)Cl)C | C10H6Cl3N3
reactant | 4-vinylphenylamine | 1.9 mmol, 228 mg | C(=C)C1=CC=C(C=C1)N | C8H9N
reactant | N,N-diisopropylethylamine | 3.6 mmol, 0.63 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-(5-Chloro-2-methyl-phenyl)-N-(4-vinyl-phenyl)-[1,3,5]triazine-2,4-diamine | 260 mg, 41% yield | ClC=1C=CC(=C(C1)C1=NC(=NC(=N1)NC1=CC=C(C=C1)C=C)N)C | C18H16ClN5
